US06310039B1
p-Maleinimidophenylacetic acid chloride
1.0 g (4.33 mmol) of p-maleinimidophenylacetic acid were suspended in 25 ml of dichloromethane and diluted with a 2.5-fold excess of oxalic acid dichloride (1.37 g, 945 μl; 10.82 mmol). The reaction mixture was heated to 30-40° C. with the exclusion of moisture and stirred for 15 h. Then the solvent was removed under a vacuum and dried under a high vacuum. Crystallization from toluene yielded a yellow powder (yield: 59%); melting point: 154° C.; Rf-value: 0.29 (acetic ester/hexane 4/1); Elementary analysis: calculated: C: 58.91% H: 3.30% N: 5.75%, Cl: 14.49%; (C12H8NO3Cl) found: C: 60.61% H: 3.64% N: 5.13% Cl: 13.80%.

reactant | p-maleinimidophenylacetic acid | 4.33 mmol, 1.0 g | C1(C=CC(N1C1=CC=C(C=C1)CC(=O)O)=O)=O | C12H9NO4
reactant | oxalic acid dichloride | 10.82 mmol, 945 μl, 1.37 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | p-Maleinimidophenylacetic acid chloride | yield: 59% | C1(C=CC(N1C1=CC=C(C=C1)CC(=O)Cl)=O)=O | C12H8ClNO3
